### PR TITLE
[Merged by Bors] - feat: add more API for (rel)index and ideals

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds a few more API lemmas for `{Add|}Subgroup.{FiniteIndex|IsFiniteRelIndex}` and connects the index with `Ideal.absNorm`; we also add the fact that (relative) indices of nonzero ideals in a Dedekind domain that is finite and free over the integers are finite.

We also generalize `Algebra.norm_algebraMap` from base fields to commutative rings, assuming the algebra is free over the base ring, and add some more API (`Algebra.del_lsmul`, `Algebra.norm_natCast`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -695,6 +695,11 @@ theorem not_finiteIndex_iff : ¬ H.FiniteIndex ↔ H.index = 0 :=
 theorem finiteIndex_toAddSubgroup_iff : H.toAddSubgroup.FiniteIndex ↔ H.FiniteIndex := by
   simp [finiteIndex_iff, AddSubgroup.finiteIndex_iff]
 
+@[to_additive]
+lemma finiteIndex_iff_isFiniteRelIndex_top {H : Subgroup G} :
+    H.FiniteIndex ↔ H.IsFiniteRelIndex ⊤ := by
+  rw [finiteIndex_iff, isFiniteRelIndex_iff_relIndex_ne_zero, relIndex_top_right]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: I would probably swap the two sides and maybe even make this a simp lemma?

File: Mathlib/GroupTheory/Index.lean [hunk 2]
```diff
@@ -770,6 +775,20 @@ lemma isFiniteRelIndex_of_le {H₁ H₂ : Subgroup G} (H₃ : Subgroup G) [H₁.
   rw [isFiniteRelIndex_iff_finiteIndex] at *
   exact finiteIndex_of_le <| subgroupOf_mono H₃ h
 
+@[to_additive]
+lemma isFiniteRelIndex_of_le' {H₁ H₂ H₃ : Subgroup G} (h₁₂ : H₁ ≤ H₂) (h₂₃ : H₂ ≤ H₃)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Can you name these `of_le_left` and `of_le_right`?

Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean]: Also, I suspect `h₁₂ : H₁ ≤ H₂` may be unnecessary? But I haven't checked.

File: Mathlib/GroupTheory/Index.lean [hunk 3]
```diff
@@ -770,6 +775,20 @@ lemma isFiniteRelIndex_of_le {H₁ H₂ : Subgroup G} (H₃ : Subgroup G) [H₁.
...
+    [H₁.IsFiniteRelIndex H₃] :
+    H₁.IsFiniteRelIndex H₂ := by
+  have := relIndex_mul_relIndex _ _ _ h₁₂ h₂₃
+  grind [isFiniteRelIndex_iff_relIndex_ne_zero]
+
+@[to_additive]
+lemma isFiniteRelIndex_of_le_of_finiteIndex {H₁ H₂ : Subgroup G} (h₁₂ : H₁ ≤ H₂)
+    [h : H₁.FiniteIndex] :
+    H₁.IsFiniteRelIndex H₂ := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Likewise here, `h₁₂ : H₁ ≤ H₂` may be unnecessary?

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean [hunk 4]
```diff
@@ -293,6 +293,10 @@ lemma FractionalIdeal.mul_inf (I J K : FractionalIdeal A⁰ K) : I * (J ⊓ K) =
 lemma FractionalIdeal.inf_mul (I J K : FractionalIdeal A⁰ K) : (I ⊓ J) * K = I * K ⊓ J * K :=
   inf_mul₀ (zero_le _) _ _
 
+lemma Ideal.inf_ne_bot_of_ne_bot {I J : Ideal A} (hI : I ≠ ⊥) (hJ : J ≠ ⊥) : I ⊓ J ≠ ⊥ := by
+  grw [← bot_lt_iff_ne_bot, ← mul_le_inf, bot_lt_iff_ne_bot, Ne, mul_eq_bot]
+  exact not_or_intro hI hJ
```
Comment (tb65536) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: This probably holds in greater generality and could be moved to an earlier file?

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: I'm not sure. You need some special property of the lattice: in general, elements can be "disjoint" or "coprime" without one of them being the bottom element. Is there such a notion in Mathlib?

In any case, with the improved versions of the lemmas (thanks!), this is actually no longer necessary. But it looks like it could be useful anyway, so I would leave it.

Comment (tb65536) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: Sorry, my point was just that `[CommRing A] [NoZeroDivisors A]` is enough (with the same proof). I didn't check what's currently assumed in this file, but regardless this lemma should be moved to an earlier file.

File: Mathlib/GroupTheory/Index.lean [hunk 5]
```diff
@@ -695,6 +695,11 @@ theorem not_finiteIndex_iff : ¬ H.FiniteIndex ↔ H.index = 0 :=
 theorem finiteIndex_toAddSubgroup_iff : H.toAddSubgroup.FiniteIndex ↔ H.FiniteIndex := by
   simp [finiteIndex_iff, AddSubgroup.finiteIndex_iff]
 
+@[to_additive (attr := simp)]
+lemma isFiniteRelIndex_top_iff_finiteIndex {H : Subgroup G} :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: I think `isFiniteRelIndex_top_iff` would also be a fine name if you wanted.
```suggestion
lemma isFiniteRelIndex_top_iff_finiteIndex :
```

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: OK. `#find_home!` suggests Mathlib.RingTheory.Ideal.Operations, which looks reasonable.

File: Mathlib/GroupTheory/Index.lean (hunk 5 above)
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Also, can you move this lemma to a slightly different location? It's currently splitting a pair of lemmas that should probably stay together.

File: Mathlib/GroupTheory/Index.lean [hunk 6]
```diff
@@ -764,12 +769,27 @@ theorem finiteIndex_of_le [FiniteIndex H] (h : H ≤ K) : FiniteIndex K :=
...
+lemma isFiniteRelIndex_of_le_left {H₁ H₂ : Subgroup G} (H₃ : Subgroup G) [H₁.IsFiniteRelIndex H₃]
     (h : H₁ ≤ H₂) :
     H₂.IsFiniteRelIndex H₃ := by
   rw [isFiniteRelIndex_iff_finiteIndex] at *
   exact finiteIndex_of_le <| subgroupOf_mono H₃ h
 
+@[deprecated (since := "2026-05-09")] alias isFiniteRelIndex_of_le := isFiniteRelIndex_of_le_left
+
+@[to_additive]
+lemma isFiniteRelIndex_of_le_right {H₁ H₂ H₃ : Subgroup G} (h : H₂ ≤ H₃)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Can you make `H₁` explicit (like in the lemma above)?

File: Mathlib/GroupTheory/Index.lean [hunk 7]
```diff
@@ -764,12 +769,27 @@ theorem finiteIndex_of_le [FiniteIndex H] (h : H ≤ K) : FiniteIndex K :=
...
+    [H₁.IsFiniteRelIndex H₃] :
+    H₁.IsFiniteRelIndex H₂ := by
+  have := relIndex_inter_ne_zero (show H₁.relIndex H₃ ≠ 0 from relIndex_ne_zero) H₂
+  rwa [inf_of_le_right h, inf_relIndex_right, ← isFiniteRelIndex_iff_relIndex_ne_zero] at this
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Slightly cleaner:
```suggestion
  rw [isFiniteRelIndex_iff_relIndex_ne_zero]
  exact mt (relIndex_eq_zero_of_le_right h) relIndex_ne_zero
```

File: Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Lemmas.lean]: (... and it even works for `Semiring`s as long as the ideals are two.-sided...)

File: Mathlib/GroupTheory/Index.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean]: (And why not use the existing H, K, L here and above?)

File: Mathlib/GroupTheory/Index.lean [hunk 8]
```diff
@@ -764,12 +769,27 @@ theorem finiteIndex_of_le [FiniteIndex H] (h : H ≤ K) : FiniteIndex K :=
...
+
+@[to_additive]
+lemma isFiniteRelIndex_of_finiteIndex {H₁ H₂ : Subgroup G} [h : H₁.FiniteIndex] :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Why not use the existing variables here as well?

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean [hunk 9]
```diff
@@ -346,6 +354,17 @@ theorem absNorm_ne_zero_of_nonZeroDivisors (I : (Ideal S)⁰) : absNorm (I : Ide
...
   absNorm_pos_iff_mem_nonZeroDivisors.mpr (SetLike.coe_mem I)
 
+lemma finiteIndex {I : Ideal S} (hI : I ≠ ⊥) : I.toAddSubgroup.FiniteIndex := by
+  rwa [AddSubgroup.finiteIndex_iff, ← absNorm_eq_index, Ne, absNorm_eq_zero_iff]
+
+open AddSubgroup in
+lemma isFiniteRelIndex {I : Ideal S} (hI : I ≠ ⊥) (J : Ideal S) :
+    I.toAddSubgroup.IsFiniteRelIndex J.toAddSubgroup := by
+  rcases eq_or_ne J ⊥ with rfl | hJ
+  · simpa [isFiniteRelIndex_iff_finiteIndex, ← inf_addSubgroupOf_right] using instFiniteIndexTop
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]:
```suggestion
```

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean [hunk 10]
```diff
@@ -306,6 +308,12 @@ theorem absNorm_span_singleton (r : S) :
   refine b.ext fun i => ?_
   simp
 
+lemma absNorm_span_nat (n : ℕ) :
+    (span {(n : S)}).absNorm = n ^ Module.finrank ℤ S := by
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]:
```suggestion
lemma absNorm_span_nat (n : ℕ) : (span {(n : S)}).absNorm = n ^ Module.finrank ℤ S := by
```

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean [hunk 11]
```diff
@@ -306,6 +308,12 @@ theorem absNorm_span_singleton (r : S) :
...
+  rw [absNorm_span_singleton, Algebra.norm_apply, map_natCast,
+    show (n : Module.End ℤ S) = (n : ℤ) by norm_cast, ← zsmul_one, LinearMap.det_smul]
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: I feel like there's a few missing lemmas here (e.g., `Algebra.norm` of a `Nat`, `LinearMap.det` of a `Nat`)

File: Mathlib/GroupTheory/Index.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/GroupTheory/Index.lean]: Thanks!

File: Mathlib/GroupTheory/Index.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/GroupTheory/Index.lean]: (Same with the other new lemmas...)

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: ...even simpler!

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: Are you saying I should add these as well? I can do that.

Comment (tb65536) [reply Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: Yeah, if you could that would be great (if they really are missing).

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: There is [Algebra.norm_algebraMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Norm/Defs.html#Algebra.norm_algebraMap), which requires a field for the base ring, but the assumptions can be weakened to `[CommRing K] [StrongRankCondition K] [Ring L] [Algebra K L] [Free K L]`.
Changing the proof along the lines of my proof for `Nat`s, the strong rank condition is actually not necessary. So I'll generalize the existing result and use it (after I've cooked and eaten dinner...).

File: Mathlib/GroupTheory/Index.lean [hunk 12]
```diff
@@ -764,11 +768,26 @@ theorem finiteIndex_of_le [FiniteIndex H] (h : H ≤ K) : FiniteIndex K :=
...
-  exact finiteIndex_of_le <| subgroupOf_mono H₃ h
+  exact finiteIndex_of_le <| subgroupOf_mono L h
+
+@[deprecated (since := "2026-05-09")] alias isFiniteRelIndex_of_le := isFiniteRelIndex_of_le_left
+@[deprecated (since := "2026-05-09")] alias
+  _root_.AddSubgroup.isFiniteRelIndex_of_le := AddSubgroup.isFiniteRelIndex_of_le_left
+
+variable (H) in
+@[to_additive]
+lemma isFiniteRelIndex_of_le_right {L : Subgroup G} (h : K ≤ L) [H.IsFiniteRelIndex L] :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: I think `L` is already present?
```suggestion
lemma isFiniteRelIndex_of_le_right (h : K ≤ L) [H.IsFiniteRelIndex L] :
```

File: Mathlib/RingTheory/Norm/Defs.lean [hunk 13]
```diff
@@ -90,16 +90,21 @@ theorem norm_algebraMap_of_basis [Fintype ι] (b : Basis ι R S) (x : R) :
   rw [norm_apply, ← det_toMatrix b, lmul_algebraMap]
   simp
 
-/-- If `x` is in the base field `K`, then the norm is `x ^ [L : K]`.
+variable [Free R S]
 
-(If `L` is not finite-dimensional over `K`, then `norm = 1 = x ^ 0 = x ^ (finrank L K)`.)
+lemma det_lsmul (x : R) : LinearMap.det (lsmul R R S x) = x ^ finrank R S := by
+  rw [show lsmul R R S x = x • 1 from rfl, LinearMap.det_smul, map_one, mul_one]
```
Comment (tb65536) [inline Mathlib/RingTheory/Norm/Defs.lean]: Can you add a `lsmul_apply` lemma?

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Norm/Defs.lean]: This is basically [Algebra.lsmul_coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Tower.html#Algebra.lsmul_coe):
```lean
variable {R S : Type*} [CommRing R] [Ring S] [Algebra R S]

lemma lsmul_apply (x : R) (y : S) : lsmul R R S x y = x • y := by
  simp only [lsmul_coe]
```

Comment (tb65536) [reply Mathlib/RingTheory/Norm/Defs.lean]: Can you add this lemma? Because `rw [show from rfl]` is basically `change` which should be replaced by an explicit lemma where possible.

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Norm/Defs.lean]: OK.

Comment (tb65536) [reply Mathlib/RingTheory/Norm/Defs.lean]: (and then can you use it to avoid the `rw [show from rfl]`?

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Norm/Defs.lean]: Also adding
```lean
lemma lsmul_eq_smul_one (a : A) : lsmul R R M a = a • 1 := rfl
```
which is what I actually need in one of the proofs.

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean [hunk 14]
```diff
@@ -306,6 +308,10 @@ theorem absNorm_span_singleton (r : S) :
   refine b.ext fun i => ?_
   simp
 
+lemma absNorm_span_natCast (n : ℕ) : (span {(n : S)}).absNorm = n ^ Module.finrank ℤ S := by
+  rw [absNorm_span_singleton, Algebra.norm_natCast]
+  simp
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: I haven't checked, but does this work?
```suggestion
  simp [absNorm_span_singleton, Algebra.norm_natCast]
```

File: Mathlib/RingTheory/Norm/Defs.lean [hunk 15]
```diff
@@ -90,16 +90,21 @@ theorem norm_algebraMap_of_basis [Fintype ι] (b : Basis ι R S) (x : R) :
   rw [norm_apply, ← det_toMatrix b, lmul_algebraMap]
   simp
 
-/-- If `x` is in the base field `K`, then the norm is `x ^ [L : K]`.
+variable [Free R S]
 
-(If `L` is not finite-dimensional over `K`, then `norm = 1 = x ^ 0 = x ^ (finrank L K)`.)
+lemma det_lsmul (x : R) : LinearMap.det (lsmul R R S x) = x ^ finrank R S := by
+  rw [lsmul_eq_smul_one, LinearMap.det_smul, map_one, mul_one]
```
Comment (tb65536) [inline Mathlib/RingTheory/Norm/Defs.lean]: Should this be in an earlier file?

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Ideal/Norm/AbsNorm.lean]: It does, indeed.

File: Mathlib/RingTheory/Norm/Defs.lean (hunk 15 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Norm/Defs.lean]: Moved to LinearAlgebra.Determinant.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
